US07943619B2
4-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid isopropylamide
As described for example 44, 4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (200 mg, 0.61 mmol) was converted, using isopropylamine instead of 4-amino-tetrahydropyran, to the title compound (SiO2, heptane:ethyl acetate=100:0 to 60:40, 90 mg, 40%) which was obtained as a white solid. MS: m/e=367.2 [M+H]+.

reactant | 4-methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid | 0.61 mmol, 200 mg | CC1=C(N=NC(=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)C(=O)O | C17H15N3O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 4-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid isopropylamide | 90 mg, 40% | C(C)(C)NC(=O)C=1N=NC(=CC1C)OCC=1C(=NOC1C)C1=CC=CC=C1 | C20H22N4O3
